US03956279
Pivampicillin tosylate, hydrate (13.1 g) was stirred with isopropanol (50 ml) at 0°C, while diisopropylethylamine (3.45 ml) was added dropwise. After 30 min. the crystalline precipitate was collected by filtration, washed with isopropanol (25 ml) and hexane (50 ml, bp. 60°-80°), and air-dried, yielding crystalline pivampicillin with a melting point of 114°-116°C.

reactant | Pivampicillin tosylate | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C.S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | diisopropylethylamine | 3.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | pivampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C | C22H29N3O6S
